US04216148
A mixture of 15.4 g. of N-(4-ethoxy-3-thienyl)formamide in 50 ml. of 2 N ethanolic hydrogen chloride and 90 ml. of ethanol is refluxed on a steam bath for 2 hours, filtered and evaporated to a residue. Water is added to the residue, which is cooled, made alkaline with 5 N sodium hydroxide and extracted with dichloromethane. The extracts are dried over magnesium dulfate, filtered and evaporated giving 3-amino-4-ethoxythiophene as a dark amber oil.

reactant | N-(4-ethoxy-3-thienyl)formamide | C(C)OC=1C(=CSC1)NC=O | C7H9NO2S
reactant | hydrogen chloride | 2 N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 3-amino-4-ethoxythiophene | NC1=CSC=C1OCC | C6H9NOS
